US06384065B1
In 8 ml of ethanol was dissolved 0.38 g of benzyl 3-({[(3R)-4-benzoyl-8-(4-isopropylphenoxy)-1-thia-4-azaspiro[4.5]decan-3-yl]carbonyl}amino)-propionate. Then, 1.90 ml of 1 mol/L aqueous solution of sodium hydroxide was added at 0-5° C., and the resulting mixture was stirred at ambient temperature for 4 hours. The reaction mixture was poured into a mixture of ice water and ethyl acetate, and the aqueous layer was separated. Ethyl acetate was added to the aqueous layer thus obtained, pH was adjusted to 2.0 with 2 mol/L hydrochloric acid, and the organic layer was separated. The organic layer thus obtained was washed successively with water and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Thus, 0.30 g of 3-({[(3R)-4-benzoyl-8-(4-isopropylphenoxy)-1-thia-4-azaspiro[4.5]-decan-3-yl]carbonyl}amino)-propionic acid was obtained as a colorless oily product.

reactant | benzyl 3-({[(3R)-4-benzoyl-8-(4-isopropylphenoxy)-1-thia-4-azaspiro[4.5]decan-3-yl]carbonyl}amino)-propionate | 0.38 g | C(C1=CC=CC=C1)(=O)N1[C@@H](CSC12CCC(CC2)OC2=CC=C(C=C2)C(C)C)C(=O)NCCC(=O)OCC2=CC=CC=C2 | C35H40N2O5S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 3-({[(3R)-4-benzoyl-8-(4-isopropylphenoxy)-1-thia-4-azaspiro[4.5]-decan-3-yl]carbonyl}amino)-propionic acid | 0.30 g | C(C1=CC=CC=C1)(=O)N1[C@@H](CSC12CCC(CC2)OC2=CC=C(C=C2)C(C)C)C(=O)NCCC(=O)O | C28H34N2O5S
